US09145411B2
Step 2: N-(3-(2-(2-aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)-morpholine-4-carboxamide
To a 25 mL round bottom flask, tert-butyl (5-(7-(3-(morpholine-4-carboxamido)phenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate (0.035 g, 0.00006 mol) and DCM (5 mL) were added. To the same flask, TFA (0.013 g, 0.00012 mol) was added and the mixture stirred at room temperature for 3 hours. The volatiles were evaporated under reduced pressure to provide the crude residue. The crude residue was dissolved in 10% methanol in chloroform and washed with aqueous saturated sodium bicarbonate. The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and evaporated under reduced pressure to provide the crude product. The crude product was purified by preparative TLC (4% methanol in chloroform, double elution) to provide the title compound (0.015 g, 52%). 1H NMR (400 MHz, DMSO-d6): δ 9.19 (s, 2H), 9.02 (d, J=2.4 Hz, 1H), 8.72 (s, 1H), 8.24 (d, J=2.4 Hz, 1H), 8.04 (t, J=1.6 Hz, 1H), 7.64 (d, J=8.0 Hz, 1H), 7.54 (d, J=8.0 Hz, 1H), 7.46 (t, J=8.0 Hz, 1H), 7.20 (br s, 2H), 4.52 (br s, 4H), 3.84 (t, J=4.8 Hz, 4H), 3.65 (t, J=4.4 Hz, 4H), 3.48 (t, J=4.8 Hz, 4H): LC-MS (ESI): Calculated mass. 513.2, Observed mass [M+H]+: 514.2 (RT=0.19 min).

reactant | tert-butyl (5-(7-(3-(morpholine-4-carboxamido)phenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate | 0.00006 mol, 0.035 g | N1(CCOCC1)C(=O)NC=1C=C(C=CC1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O | C31H35N9O5
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 0.00012 mol, 0.013 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-(2-(2-aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)-morpholine-4-carboxamide | 0.015 g, 52% | NC1=NC=C(C=N1)C=1N=C(C2=C(N1)C=C(C=N2)C=2C=C(C=CC2)NC(=O)N2CCOCC2)N2CCOCC2 | C26H27N9O3
